US09303045B2
Step 1: Methyl 1-(thiazol-2-yl)-1H-indole-3-carboxylate
To a solution of methyl 1H-indole-3-carboxylate (200 mg, 1.142 mmol) in NMP (Volume: 1142 μl) were added 2-bromothiazole (206 μl, 2.283 mmol) and cesium carbonate (1116 mg, 3.42 mmol) at RT. The mixture was heated at 110° C. for 2 h, then diluted with DMF, filtered and purified by HPLC to afford the title compound as a brown solid.

reactant | methyl 1H-indole-3-carboxylate | 1.142 mmol, 200 mg | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | 2-bromothiazole | 2.283 mmol, 206 μl | BrC=1SC=CN1 | C3H2BrNS
reactant | cesium carbonate | 3.42 mmol, 1116 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 1142 μl | CN1CCCC1=O | C5H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 1-(thiazol-2-yl)-1H-indole-3-carboxylate | S1C(=NC=C1)N1C=C(C2=CC=CC=C12)C(=O)OC | C13H10N2O2S
